US07074800B1
Using an analogous procedure to that described for the preparation of the starting material in Example 201, 7-benzyloxy-4-chloro-6-methoxyquinazoline (2.5 g, 8.3 mmol), (prepared as described for the starting material in Example 1), was reacted with 6-aminoindole (1.5 g, 11.4 mmol) to give 7-benzyloxy-4-(indol-6-ylamino)-6-methoxyquinazoline hydrochloride (3.18 g, 89%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 8.3 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | 6-aminoindole | 11.4 mmol, 1.5 g | NC1=CC=C2C=CNC2=C1 | C8H8N2
product | 7-benzyloxy-4-(indol-6-ylamino)-6-methoxyquinazoline hydrochloride | 3.18 g, 89% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC=C2C=CNC2=C1)OC | InChI=1S/C24H20N4O2.ClH/c1-29-22-12-19-21(13-23(22)30-14-16-5-3-2-4-6-16)26-15-27-24(19)28-18-8-7-17-9-10-25-20(17)11-18;/h2-13,15,25H,14H2,1H3,(H,26,27,28);1H
